US05153227
Nitromethane (4.6 ml, 82.3 mmol) was added to a stirred solution of sodium hydroxide (7.9 g, 197.5 mmol) in water (50 ml). A solution of sodium 2-bromobenzenesulphinate (20 g, 82.5 mmol) in water (100 ml) was added, followed by dichloromethane (50 ml). The reaction mixture was cooled in an ice bath and a solution of potassium ferricyanide (3 g, 9.1 mmol) in water (20 ml) was added, followed by solid sodium persulphate (12 g, 50.4 mmol). The resultant deep orange solution was allowed to stir for one hour at ambient temperature. Ether (25 ml) was added, followed by urea (5 g), and the pH of the reaction mixture was then adjusted to pH 6 with 20% aqueous acetic acid solution. The organic phase was separated and the aqueous phase was extracted with ether (150 ml×bb 3). The combined organic phases were dried (MgSO4), and the solvent was removed by evaporation. The resultant brown solid was purified by MPLC, eluting with dichloromethane, to give (2-bromophenylsulphonyl)nitromethane as a pale yellow solid (0.197 g), m.p. 74°-76° C.; microanalysis, found: C,29.7; H,2.1; N,4.9%; C7H6BrNO4S requires: C,30.0; H,2.1; N,5.0%.

reactant | Nitromethane | 82.3 mmol, 4.6 ml | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 197.5 mmol, 7.9 g | [OH-].[Na+]
reactant | sodium 2-bromobenzenesulphinate | 82.5 mmol, 20 g | BrC1=C(C=CC=C1)S(=O)[O-].[Na+]
reactant | sodium persulphate | 50.4 mmol, 12 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | urea | 5 g | NC(=O)N | CH4N2O
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 20 ml | O | H2O
catalyst | potassium ferricyanide | 9.1 mmol, 3 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Ether | 25 ml | CCOCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2-bromophenylsulphonyl)nitromethane | 0.197 g | BrC1=C(C=CC=C1)S(=O)(=O)C[N+](=O)[O-] | C7H6BrNO4S
